US08492548B2
Ethyl carbonochloridate (10.5 μl, 0.11 mmol) was added to a solution of (R)-1-(2-(4-aminophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (diastereomer 1 of I74) (60 mg, 0.11 mmol) in TEA (15.2 μl, 0.11 mmol) and DCM (2 mL). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the product was purified by preparative HPLC (eluents: CH3CN/H2O) to obtain (R)-1-(2-(4-(ethoxycarbonylamino)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (14 mg, 20.6% yield).

reactant | Ethyl carbonochloridate | 0.11 mmol, 10.5 μl | C(OCC)(=O)Cl | C3H5ClO2
reactant | (R)-1-(2-(4-aminophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 0.11 mmol, 60 mg | [Br-].NC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(2-(4-(ethoxycarbonylamino)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 14 mg, 20.6% yield | [Br-].C(C)OC(=O)NC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C32H35N3O5.BrH/c1-2-39-32(38)34-27-15-13-23(14-16-27)28(36)21-35-19-17-24(18-20-35)29(22-35)40-31(37)30(25-9-5-3-6-10-25)33-26-11-7-4-8-12-26;/h3-16,24,29-30,33H,2,17-22H2,1H3;1H/t24?,29-,30+,35?;/m0./s1
